US06057322
By reacting ethyl 4-hydroxybenzoate with methyl 4-fluoro-3-methylsulfonylbenzoate in analogy with the protocol given under 14 d) methyl 4-(4-ethoxycarbonylphenoxy)-benzoate was obtained as a colorless to pale-yellow oil which was hydrolyzed, without any further purification steps, in analogy with the manner indicated in protocol 16 c), to give 4-(4-carboxyphenoxy)-3-methylsulfonyl-benzoic acid.

reactant | ethyl 4-hydroxybenzoate | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | methyl 4-fluoro-3-methylsulfonylbenzoate | FC1=C(C=C(C(=O)OC)C=C1)S(=O)(=O)C | C9H9FO4S
product | methyl 4-(4-ethoxycarbonylphenoxy)-benzoate | C(C)OC(=O)C1=CC=C(OC2=CC=C(C(=O)OC)C=C2)C=C1 | C17H16O5
